US05817833
N-[3-(Dimethylaminoethoxy)-4-methoxyphenyl]amino acetaldehyde dimethyl acetal
A solution of 3-(2-dimethylaminoethoxy)-4-methoxyaniline (D11, 5.7 g, 0.027 mole) ethanol (120 ml) was treated with a solution of 2,2-dimethoxyacetaldehyde in methyl tert-butyl ether (9.5 g of approx. 40% solution, 0.036 mole) and kept at room temperature for 16 hours. The solution was then hydrogenated over 10% Pd-C (0.6 g) at atmospheric pressure and temperature for 7 hours. The catalyst was removed by filtration through kieselguhr and the filtrate concentrated in vacuo. The residue was dissolved in ethyl acetate (100 ml), washed twice with water (2×60 ml), then dried (Na2SO4) and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 5% methanol/chloroform to afford the title compound as a red oil (5.4 g, 67%).

reactant | 3-(2-dimethylaminoethoxy)-4-methoxyaniline | 0.027 mole, 5.7 g | CN(CCOC=1C=C(N)C=CC1OC)C | C11H18N2O2
reactant | 2,2-dimethoxyacetaldehyde | COC(C=O)OC | C4H8O3
reactant | methyl tert-butyl ether | 0.036 mole, 9.5 g | C(C)(C)(C)OC | C5H12O
catalyst | Pd-C | 0.6 g | [Pd] | Pd
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-[3-(Dimethylaminoethoxy)-4-methoxyphenyl]amino acetaldehyde dimethyl acetal | 5.4 g, 67% | COC(CNC1=CC(=C(C=C1)OC)OCCN(C)C)OC | C15H26N2O4
